US07531692B2
Preparation of the 1-(2-fluoro-4′-hydroxy-biphenyl-4-yl)-cyclopropanecarboxylic acid
To a solution of K2CO3 (447 mg, 3.2 mmoles) in dioxane (30 ml) and water (3 ml), 250 mg of 1-(4-bromo-3-fluoro-phenyl)-cyclopropanecarboxylic acid (1.0 mmole) and 265 mg of hydroxyphenylboronic acid (1.9 mmoles) are added under stirring. Under nitrogen atmosphere, 39 mg of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (PdCl2-DPPF) are added. The resulting mixture is heated at 65° C. for one hour, then the reaction is quenched by adding a 10% w/v HCl solution.

reactant | K2CO3 | 3.2 mmoles, 447 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(4-bromo-3-fluoro-phenyl)-cyclopropanecarboxylic acid | 1.0 mmole, 250 mg | BrC1=C(C=C(C=C1)C1(CC1)C(=O)O)F | C10H8BrFO2
reactant | hydroxyphenylboronic acid | 1.9 mmoles, 265 mg | OOB(O)C1=CC=CC=C1 | C6H7BO3
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 39 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2-fluoro-4′-hydroxy-biphenyl-4-yl)-cyclopropanecarboxylic acid | FC1=C(C=CC(=C1)C1(CC1)C(=O)O)C1=CC=C(C=C1)O | C16H13FO3
